US04578465
To a suspension of 60% sodium hydride (0.44 g) in dimethylformamide (50 ml), was added 3-[2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]-2,4-(1H,3H)quinazolinedione (3.80 g) in a small portion under a nitrogen stream, and the mixture was stirred at room temperature for 30 minutes and at 50° C. for 10 minutes. After cooling to room temperature, a solution of ethyl 7-bromoheptanoate (2.37 g) in dimethylformamide (20 ml) was added to the mixture and the resulting mixture was stirred at room temperature overnight. The solvent was distilled off under vacuum and the resulting residue was extracted with chloroform. The chloroform layer was washed with water and dried with sodium sulfate. When the solvent was distilled off under vacuum, an oily substance was obtained and upon column chromatography on silica gel (eluted with a chloroformethanol 25:1 mixture), a pale yellow oil of 1-(6-ethoxycarbonylhexyl)-3-[2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]-2,4-(1H, 3H)quinazolinedione (3.62 g) was obtained. The oil was dissolved in ethanol (50 ml) and hydrogen chloride gas was introduced into the solution for about 5 minutes. After distilling off the solvent, the crystalline residue was recrystallized from a mixture of ethanol and n-hexane to give colorless needles of 1-(6-ethoxycarbonylhexyl)-3-[2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]-2,4-(1H,3H)quinazolinedione dihydrochloride (3.45 g) having a m.p. of 109°-111° C.

reactant | sodium hydride | 0.44 g | [H-].[Na+]
reactant | 3-[2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]-2,4-(1H,3H)quinazolinedione | 3.80 g | COC1=C(C=CC=C1)N1CCN(CC1)CCN1C(NC2=CC=CC=C2C1=O)=O | C21H24N4O3
reactant | ethyl 7-bromoheptanoate | 2.37 g | BrCCCCCCC(=O)OCC | C9H17BrO2
reactant | hydrogen chloride | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(6-ethoxycarbonylhexyl)-3-[2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]-2,4-(1H,3H)quinazolinedione dihydrochloride | 3.45 g | Cl.Cl.C(C)OC(=O)CCCCCCN1C(N(C(C2=CC=CC=C12)=O)CCN1CCN(CC1)C1=C(C=CC=C1)OC)=O | InChI=1S/C30H40N4O5.2ClH/c1-3-39-28(35)16-6-4-5-11-17-33-25-13-8-7-12-24(25)29(36)34(30(33)37)23-20-31-18-21-32(22-19-31)26-14-9-10-15-27(26)38-2;;/h7-10,12-15H,3-6,11,16-23H2,1-2H3;2*1H
